US08071597B2
Intermediate 33: 6-(Dimethylamino)pyridine-3-sulfonamide (Formula V)
A mixture of 6-chloropyridine-3-sulfonamide (5 g, 0.0259 mol) and aqueous dimethylamine (100 ml, 40%) is stirred at rt for 13 h. The mixture is concentrated to ⅕th of its original volume and cooled. The precipitate is collected by filtration, washed with ice-cold water (10 ml) and dried under vacuum to afford 4.5 g (95%) of the title compound as a solid. mp: 133-138° C., LC/MS: (ES+) 201.9.

reactant | 6-chloropyridine-3-sulfonamide | 0.0259 mol, 5 g | ClC1=CC=C(C=N1)S(=O)(=O)N | C5H5ClN2O2S
reactant | dimethylamine | 100 ml | CNC | C2H7N
product | 6-(Dimethylamino)pyridine-3-sulfonamide | 4.5 g, 95% | CN(C1=CC=C(C=N1)S(=O)(=O)N)C | C7H11N3O2S
